US08119617B2
To a solution of 300 mg of ethynyl-phosphonic acid diethyl ester, 494 mg of 1-iodo-2-nitrobenzene and 0.28 ml of di-isopropylamine in 15 ml THF are sequentially added 43 mg of bis-(triphenylphosphin)-palladium(II)-dichloride and 12 mg of copper(I)iodide and the mixture obtained is refluxed for approximately 2 hours. Following an acidic work-up (1N aqueous HCl and EtOAc) and subsequent column chromatography (2-nitro-phenylethynyl)-phosphonic acid diethyl ester is obtained in the form of a slightly brownish oil.

reactant | ethynyl-phosphonic acid diethyl ester | 300 mg | C(C)OP(OCC)(=O)C#C | C6H11O3P
reactant | 1-iodo-2-nitrobenzene | 494 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | di-isopropylamine | 0.28 ml | C(C)(C)NC(C)C | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | bis-(triphenylphosphin)-palladium(II)-dichloride | 43 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 12 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-nitro-phenylethynyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C#CC1=C(C=CC=C1)[N+](=O)[O-] | C12H14NO5P
